US07579488B2
E. 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid ethyl ester.
5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid ethyl ester (5.55 g, 14.6 mmol) and 1-bromopinacolone (3.92 g, 21.9 mmol) and K2CO3 (6.04 g, 43.8 mmol) are reacted analogous to Example 1E to give the title compound as a pale yellow oil (5.00 g, 72%).

reactant | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid ethyl ester | 14.6 mmol, 5.55 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2C)C(CC)(C2=CC(=C(C=C2)O)C)CC | C24H28O4
reactant | 1-bromopinacolone | 21.9 mmol, 3.92 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 43.8 mmol, 6.04 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carboxylic acid ethyl ester | 5.00 g, 72% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2C)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C30H38O5
